US05688815
2-[(4-Fluorophenyl)-hydroxy-methyl]-3-hydroxy-1-(2-hydroxy-ethyl)-1H-pyridin-4-one
2-[4-Fluorophenyl)-hydroxy-methyl]-3-benzyloxy-1-(2-hydroxy-ethyl)-1H-pyridin-4-one: 13.7 g of 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[(4-fluorophenyl)-(tetrahydropyran-2-yloxy)-methyl]-1H-pyridin-4-one are boiled under reflux for 3 hours in 150 ml of ethanol and 50 ml of 2N HCl. For working-up, the ethanol is removed using a rotary evaporator. The residue is diluted with 50 ml of water and covered with 50 ml of ethyl acetate. Then, with stirring, 50 ml of 2N NaOH are added. The resulting product is filtered off and washed with water and ethyl acetate. After drying, 2-[(4-fluorophenyl)-hydroxy-methyl]-3-benzyloxy-1-(2-hydroxy-ethyl)-1H-pyridin-4-one remains, in the form of colourless crystals. M.p.: 187°-187.5° C.

reactant | 3-benzyloxy-1-(2-hydroxy-ethyl)-1H-pyridin-4-one | C(C1=CC=CC=C1)OC1=CN(C=CC1=O)CCO | C14H15NO3
reactant | 3-benzyloxy-1-(2-hydroxy-ethyl)-2-[(4-fluorophenyl)-(tetrahydropyran-2-yloxy)-methyl]-1H-pyridin-4-one | 13.7 g | C(C1=CC=CC=C1)OC1=C(N(C=CC1=O)CCO)C(OC1OCCCC1)C1=CC=C(C=C1)F | C26H28FNO5
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | HCl | 2N, 50 ml | Cl | ClH
product | 2-[(4-Fluorophenyl)-hydroxy-methyl]-3-hydroxy-1-(2-hydroxy-ethyl)-1H-pyridin-4-one | FC1=CC=C(C=C1)C(C=1N(C=CC(C1O)=O)CCO)O | C14H14FNO4
